### PR TITLE
issue 6 (affine_continuousAt_of_continuousAt) is proved

### LINKED ISSUE #6: affine_continuousAt_of_continuousAt (cdf-continuity-pt-transform, Lemma 1.14)
Prove `affine_continuousAt_of_continuousAt`.

### PR DESCRIPTION
**Pull request by picadud**
close #6

### CODE REVIEW

File: ExtremeValueProject/AffineTransformation.lean [hunk 1]
```diff
@@ -126,7 +128,16 @@ lemma affine_continuousAt_of_continuousAt
...
+  have ha:=(A : ℝ ≃ᵃ[ℝ] ℝ)⁻¹.continuous_of_finiteDimensional
+  let f:= fun x => (A : ℝ ≃ᵃ[ℝ] ℝ)⁻¹ x
+  have hf1: ContinuousAt f ((A : ℝ ≃ᵃ[ℝ] ℝ) x) := by exact Continuous.continuousAt ha
+  have h_eq: (A • F).toStieltjesFunction = F ∘ f:= by rfl
+  rw[h_eq]
+  have h_simp: f ((A : ℝ ≃ᵃ[ℝ] ℝ) x) = x := by
+    unfold f
+    exact (AffineEquiv.apply_eq_iff_eq_symm_apply (A : ℝ ≃ᵃ[ℝ] ℝ)⁻¹).mpr rfl
+  rw[← h_simp] at F_cont
+  exact ContinuousAt.comp F_cont hf1
```
Comment (kkytola) [inline ExtremeValueProject/AffineTransformation.lean:140]: It is possible to remove a few parts that are not necessary in the final version. (I know those are helpful when finding the proof, but the final version can be made shorter without losing readability.) I also added some spaces around colons etc. to follow standard code style.
```suggestion
  have ha := (A : ℝ ≃ᵃ[ℝ] ℝ)⁻¹.continuous_of_finiteDimensional
  let f := fun x ↦ (A : ℝ ≃ᵃ[ℝ] ℝ)⁻¹ x
  rw [show (A • F).toStieltjesFunction = F ∘ f from rfl]
  have h_simp : f ((A : ℝ ≃ᵃ[ℝ] ℝ) x) = x := (AffineEquiv.apply_eq_iff_eq_symm_apply _).mpr rfl
  rw[← h_simp] at F_cont
  exact ContinuousAt.comp F_cont ha.continuousAt
```

Comment (kkytola) [reply ExtremeValueProject/AffineTransformation.lean:140]: Thank you!

I added a few suggestions of minor edits. You should be able to accept them by just clicking.

Remember to also write "close #6" as in step 4 of [the contribution instructions](https://github.com/kkytola/ExtremeValueProject/blob/main/README.md). Then the issue gets closed once the pull-request gets merged.

**Comment by kkytola** [comment]
Thank you!

I added a few suggestions of minor edits. You should be able to accept them by just clicking _"Commit suggestion"_.

Remember to also write _"close #6"_ as in step 4 of [the contribution instructions](https://github.com/kkytola/ExtremeValueProject/blob/main/README.md). Then the issue gets closed once the pull-request gets merged.

**Comment by kkytola** [comment]
Thank you! I added the "close #N" in the PR description.
